US04038312
A stirred mixture of 6.00 g (30 mmol) of 1,4,7,11-tetraazacyclotetradecane and 4.90 g of hexamethylphosphorous triamide is heated under nitrogen for 3 hr at 120° and then distilled in a short-path apparatus to give 5.50 g (80%) of clear, colorless liquid 1,5,9,12-tetraaza-15-phosphatricyclo[7.5.1.05,15 ]pentadecane, bp 106°-110° (0.30 mm), which solidifies on storing below 0°.

reactant | 1,4,7,11-tetraazacyclotetradecane | 30 mmol, 6.00 g | N1CCNCCNCCCNCCC1 | C10H24N4
reactant | hexamethylphosphorous triamide | 4.90 g | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | 1,5,9,12-tetraaza-15-phosphatricyclo[7.5.1.05,15 ]pentadecane | N12CCCN3CCCN(CCNCC1)P23 | C10H21N4P
